US07713994B2
2-Phenyl-8H-pyrido[4,3-d]pyrimidine-5,7-dione
A solution of 0.670 g (2.61 mmol) of 4-Carbamoylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid and 0.528 g (3.26 mmol) of CDI in 20 mL of N,N-dimethylformamide is stirred overnight at 25° C. The solvent is evaporated and the residue is washed with Et2O (3×). The insoluble material is boiled with CHCl3, collected, washed with hot CHCl3 and Et2O and dried in vacuo to give 0.372 g (60%) of yellow-orange crystals: mp 216-217.5° C. (dec); 1H NMR (DMSO-d6) δ 8.99 (s, 1H), 8.41 (m, 2H), 7.56 (m, 4H), 5.45 (s, 2H); HRMS (ESI) m/e calcd for C13H9N3O2 240.07645. found 240.07652 (M+H)+1. Analysis for C13H9N3O2.0.25H2O: Calcd: C, 64.05; H, 3.94; N, 17.24. Found: C, 63.67; H, 3.91; N, 17.38.

reactant | 4-Carbamoylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid | 2.61 mmol, 0.670 g | C(N)(=O)CC1=NC(=NC=C1C(=O)O)C1=CC=CC=C1 | C13H11N3O3
reactant | CDI | 3.26 mmol, 0.528 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-Phenyl-8H-pyrido[4,3-d]pyrimidine-5,7-dione | 0.372 g, 60% | C1(=CC=CC=C1)C=1N=CC2=C(N1)CC(NC2=O)=O | C13H9N3O2
